### PR TITLE
FHE New Representation

### PR DESCRIPTION
**Pull request by goens**
This PR migrates the FHE use case to the `ICom` data structure from `IntrinsicAsymptotics`. It also removes all the remaining axioms (and sorries) from the file.

### CODE REVIEW

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 1]
```diff
@@ -29,9 +30,55 @@ variable (q t : Nat) [Fact (q > 1)] (n : Nat)
...
+    | zero => simp
+    | succ n ih =>  
+        rw [pow_succ'', ih, ← WithBot.coe_mul]
+        rw [← WithBot.some_eq_coe, WithBot.some]
+        apply Option.some_inj.2
+        rw [Nat.pow_succ]
+        ring
+  done
 
 noncomputable def f : (ZMod q)[X] := X^(2^n) + 1
```
Comment (bollu) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:45]:
```suggestion
/-! Charaterizing `f`: `f` is monic of degree `2^n` -/
```

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 2]
```diff
@@ -29,9 +30,55 @@ variable (q t : Nat) [Fact (q > 1)] (n : Nat)
...
+  simp [Preorder.toLT, WithBot.preorder]
+  have h0 : @OfNat.ofNat (WithBot ℕ) 0 Zero.toOfNat0  = @WithBot.some ℕ 0 := by
+    simp [OfNat.ofNat]
+  have h2 : @OfNat.ofNat (WithBot ℕ) 2 instOfNat = @WithBot.some ℕ 2 := by
+    simp [OfNat.ofNat]
+  have h2n : @HPow.hPow (WithBot ℕ) ℕ (WithBot ℕ) instHPow 2 n = @WithBot.some ℕ (@HPow.hPow ℕ ℕ ℕ instHPow 2 n) := by
+    rw [h2, WithBot.npow_coe_eq_npow]
+  rw [h0, h2n]
+  exact h'
+  done
```
Comment (bollu) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:64]: I am curious, do we need the `done`?

**Review by bollu — APPROVED** [review]
LGTM

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean (hunk 2 above)
Comment (goens) [reply SSA/Projects/FullyHomomorphicEncryption/Basic.lean:64]: no we don't need it, but it's nice! I saw a Zulip thread recommending it (and I wasn't sure if lean was happy with the proof)

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 3]
```diff
@@ -42,7 +42,7 @@ theorem WithBot.npow_coe_eq_npow (n : Nat) (x : ℕ) : (WithBot.some x : WithBot
   done
 
 noncomputable def f : (ZMod q)[X] := X^(2^n) + 1
-
+/-! Charaterizing `f`: `f` is monic of degree `2^n` -/
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:45]:
```suggestion
/-- Charaterizing `f`: `f` is monic of degree `2^n` -/
```
Comments with the double dash are docstrings that appear when you hover over the theorem.

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 4]
```diff
@@ -29,8 +30,54 @@ variable (q t : Nat) [Fact (q > 1)] (n : Nat)
...
+    simp [OfNat.ofNat]
+  have h2 : @OfNat.ofNat (WithBot ℕ) 2 instOfNat = @WithBot.some ℕ 2 := by
+    simp [OfNat.ofNat]
+  have h2n : @HPow.hPow (WithBot ℕ) ℕ (WithBot ℕ) instHPow 2 n = @WithBot.some ℕ (@HPow.hPow ℕ ℕ ℕ instHPow 2 n) := by
+    rw [h2, WithBot.npow_coe_eq_npow]
+  rw [h0, h2n]
+  exact h'
+  done
+
+theorem f_monic : Monic (f q n) := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:66]: This can be proved with `monic_X_pow_add`

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 5]
```diff
@@ -41,29 +88,79 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
- TODO: replace these axioms with the proper definition and prove the two characterizations.
 -/
-axiom R.representative {q n} : R q n → (ZMod q)[X]
+noncomputable def R.representative : R q n → (ZMod q)[X] := fun x => R.representative' q n x %ₘ (f q n)
 
 /--
 `R.representative` is in fact a representative of the equivalence class.
 -/
-axiom R.rep_fromPoly_eq {q n} : forall a : R q n, (R.fromPoly (n:=n) (R.representative a)) = a
+theorem R.rep_fromPoly_eq : forall a : R q n, (R.fromPoly (n:=n) (R.representative q n a)) = a := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:109]:
```suggestion
@[simp]
theorem R.fromPoly_representative : forall a : R q n, (R.fromPoly (n:=n) (R.representative q n a)) = a := by
```

File: SSA/Projects/FullyHomomorphicEncryption/Basic.lean [hunk 6]
```diff
@@ -41,29 +88,79 @@ abbrev R := (ZMod q)[X] ⧸ (Ideal.span {f q n})
...
+    simp [R.representative', Function.surjInv_eq]
+  · ring
+  done
+
+/--
+Characterization theorem for the representative.
+Taking the representative of the equivalence class of a polynomial  `a : (ZMod q)[X]` is 
+the same as taking the remainder of `a` modulo `f q n`.
+-/
+theorem R.fromPoly_rep_eq : forall a : (ZMod q)[X], (R.fromPoly (n:=n) a).representative = a %ₘ (f q n) := by
```
Comment (ChrisHughes24) [inline SSA/Projects/FullyHomomorphicEncryption/Basic.lean:145]:
```suggestion
theorem R.representative_fromPoly : forall a : (ZMod q)[X], (R.fromPoly (n:=n) a).representative = a %ₘ (f q n) := by
```

**Comment by bollu** [comment]
@goens Feel invited to press 'merge' if you're happy with this!
